US04751227
In 15 ml of conc. sulfuric acid, 3 g of 1,2-dihydro-6-methyl-5-(imidazo[1,2-a]pyridin-6-yl)-2-oxo-3-pyridinecarbonitrile was stirred at 90° C. for 40 minutes. After cooling, the reaction mixture was poured into ice and conc. ammonia water was added thereto to render alkaline. Crystals prepcipitated were taken by filtration. After washing with water and drying, the crystals were recrystallized from N,N-dimethylformamide to obtain 2.5 g of 1,2-dihydro-6-methyl-5-(imidazo[1,2-a]pyridin-6-yl)-2-oxo-3-pyridinecarboxamide.

reactant | 1,2-dihydro-6-methyl-5-(imidazo[1,2-a]pyridin-6-yl)-2-oxo-3-pyridinecarbonitrile | 3 g | CC1=C(C=C(C(N1)=O)C#N)C=1C=CC=2N(C1)C=CN2 | C14H10N4O
reactant | ammonia water | O.N
solvent | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
product | 1,2-dihydro-6-methyl-5-(imidazo[1,2-a]pyridin-6-yl)-2-oxo-3-pyridinecarboxamide | 2.5 g | CC1=C(C=C(C(N1)=O)C(=O)N)C=1C=CC=2N(C1)C=CN2 | C14H12N4O2
